US05001275
Synthesis of 1-(2,2,3,3,4,4,4-heptafluorobutoxy)methyl-3-nitrobenzene (Compound No. 11)
100.0 g (0.58 mol) of 3-nitrobenzyl chloride and 128.3 g (0.62 mol, 1.05 equivalents) of 2,2,3,3,4,4,4-heptafluorobutanol(purity: 96%) were dissolved in 300 ml of dimethylformamide. To the resultant mixture 49.0 g (0.88 mol, 1.5 equivalents) of KOH pellets were added while the mixture was being cooled in a water bath. The reaction temperature is elevated to 43° C. and thereafter gradually restored to room temperature, and the reaction was completed after 30 minutes.

reactant | 3-nitrobenzyl chloride | 0.58 mol, 100.0 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | 2,2,3,3,4,4,4-heptafluorobutanol | 0.62 mol, 128.3 g, 1.05 equivalents | FC(CO)(C(C(F)(F)F)(F)F)F | C4H3F7O
reactant | KOH | [OH-].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-(2,2,3,3,4,4,4-heptafluorobutoxy)methyl-3-nitrobenzene | FC(COCC1=CC(=CC=C1)[N+](=O)[O-])(C(C(F)(F)F)(F)F)F | C11H8F7NO3
